US07625922B2
N-(4-(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]pyridin-7-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide (CJS 3251)
Method E3 (with triphosgene and Pyridine). N-(4-(2,3-Diaminopyridin-4-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide (500 mg, 1.5 mmol) was dissolved in dry THF (20 mL), pyridine (1 mL) was added and the solution was cooled at 0° C. Triphosgene (445 mg, 1.5 mmol) in dry THF (10 mL) was added dropwise. The reaction mixture was stirred at room temperature for 48 hours. The solvent was evaporated and the residue washed with water. The precipitate was recovered by filtration to afford the title compound (260 mg, 49%). 1H-NMR (δ, ppm, DMSO-d6): 6.57 (d, 1H, HPy,5), 6.98 (d, 1H, Harom,Ph), 7.36 (d, 1H, Harom,Ph), 7.50 (d, 1H, Harom,Ph), 7.75 (d, 1H, HPy,6), 11.26 (s, 1H, NHPy3), 11.30 (s, 1H, NHCOCF3), 11.48 (s, 1H, NHPy2). LC-MS (m/z): 356 (M, 100).

reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-(4-(2,3-Diaminopyridin-4-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide | 1.5 mmol, 500 mg | NC1=NC=CC(=C1N)OC1=CC(=C(C=C1)NC(C(F)(F)F)=O)F | C13H10F4N4O2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | Triphosgene | 1.5 mmol, 445 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]pyridin-7-yl-oxy)-2-fluorophenyl)-2,2,2-trifluoroacetamide | 260 mg, 49% | O=C1NC=2C(=NC=CC2OC2=CC(=C(C=C2)NC(C(F)(F)F)=O)F)N1 | C14H8F4N4O3
